US05486274
The procedure of Example 35 was followed except that 1,2-dicyano-4-nitrobenzene (1.0 part) was used in place of the 1,2-dicyano-3-nitrobenzene, 1.0 parts instead of 2.79 parts of sodium phenoxide and 20 parts instead of 50 parts of dimethylformamide were used. 1,2-Dicyano-4-phenoxybenzene (0.6 parts, 49%) was obtained as a white solid, m.pt.98°-100° C.

reactant | 1,2-dicyano-4-nitrobenzene | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])C#N | C8H3N3O2
reactant | sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,2-Dicyano-4-phenoxybenzene | 49% | C(#N)C1=C(C=C(C=C1)OC1=CC=CC=C1)C#N | C14H8N2O
